US20010029239A1
A mixture of tert-butyl 2,6-bis(methoxycarbonylmethoxy)benzoate (2.05 g), tert-butoxy bis(dimethylamino)methane (4.77 ml) and toluene was heated for 2 hours at 80° C., then washed with brine. The mixture was acidified to pH6 with hydrochloric acid, and the organic layer dried (magnesium sulphate), evaporated and purified by chromatography on silica gel eluting with hexane/ethyl acetate to give tert-butyl 2,6-bis(2-dimethylamino-1-methoxycarbonyl-vinyloxy)benzoate (1.0 g), NMR 1.5(s,9H), 2.9(s,12H), 3.5(s,6H), 6.4(d,2H), 7.0(t,1H), 7.0(s,2H).

reactant | tert-butyl 2,6-bis(methoxycarbonylmethoxy)benzoate | 2.05 g | COC(=O)COC1=C(C(=O)OC(C)(C)C)C(=CC=C1)OCC(=O)OC | C17H22O8
reactant | tert-butoxy bis(dimethylamino)methane | 4.77 ml | C(C)(C)(C)OC(N(C)C)N(C)C | C9H22N2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | tert-butyl 2,6-bis(2-dimethylamino-1-methoxycarbonyl-vinyloxy)benzoate | 1.0 g | CN(C=C(OC1=C(C(=O)OC(C)(C)C)C(=CC=C1)OC(=CN(C)C)C(=O)OC)C(=O)OC)C | C23H32N2O8
